US07402592B2
Ethyl 7-oxo-3-azabicyclo[3.3.1]nonane-3-carboxylate
Ethyl 7-oxo-3-azabicyclo[3.3.1]nonane-3-carboxylate ethylene ketal (4.40 g, 17.2 mmol) was combined with 2% aqueous H2SO4 (50 ml) and stirred for 4 h. Then the reaction mixture was extracted with ethyl acetate (4×30 ml). The combined extracts were dried over sodium sulfate, filtered and concentrated by rotary evaporation to yield a light yellow oil (3.20 g, 88.1%).

reactant | Ethyl 7-oxo-3-azabicyclo[3.3.1]nonane-3-carboxylate ethylene ketal | 17.2 mmol, 4.40 g | C1COC(OCC)(N2CC3CC(CC(C2)C3)=O)O1 | C13H21NO4
solvent | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
product | Ethyl 7-oxo-3-azabicyclo[3.3.1]nonane-3-carboxylate | 3.20 g, 88.1% | O=C1CC2CN(CC(C1)C2)C(=O)OCC | C11H17NO3
